US08633319B2
Preparation of iso-Propyl pinacol borate
To a 20 L four-neck bottle tri-isopropyl borate (261.0 g, 1.388 mol) and pinacol (142.5 g, 1.207 mol) were added and heated to ˜90° C. for 12-16 h. The criteria for a reaction completion is pinacol<4.0% by GC. After completion, the reaction was converted to distillation, and the product fractions (boiling at 174-178° C.) collected. Thus the title product was obtained as a colourless oil in a yield range of 80-90% th across the six 20 L batches which were operated. GC records purity of 87-96%, but 1H NMR shows the product to be very pure. [discrepancy due to product instability to GC conditions.]

reactant | tri-isopropyl borate | 1.388 mol, 261.0 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | pinacol | 1.207 mol, 142.5 g | OC(C)(C)C(C)(C)O | C6H14O2
product | iso-Propyl pinacol borate | B(O)(O)O.C(C)(C)CC(O)(C)C(C)(C)O | InChI=1S/C9H20O2.BH3O3/c1-7(2)6-9(5,11)8(3,4)10;2-1(3)4/h7,10-11H,6H2,1-5H3;2-4H
